US05516806
b) cis-2-(N-BOC-aminomethyl )-cyclopropanemethanol
A solution of 25.45 g (0.1166 mol) of di-tert-butyldicarbonate in 100 ml of tetrahydrofuran is added dropwise to a solution of 10.9 g (0.1078 mol) of cis-2-aminomethyl-cyclopropanemethanol [J. Meal. Chem. 31, 2304 (1988)] in 100 ml of tetrahydrofuran and the mixture is stirred at room temperature for 15 hours. The reaction mixture is then evaporated in vacuo and the residue is purified by means of flash chromatography on silica gel using ethyl acetate/hexane (1:1). After evaporation of the product-containing fractions, the title compound is obtained as a colourless oil, Rf value=0.23 (silica gel/ethyl acetate:hexane (1:1)).

reactant | di-tert-butyldicarbonate | 0.1166 mol, 25.45 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | cis-2-aminomethyl-cyclopropanemethanol | 0.1078 mol, 10.9 g | NC[C@@H]1[C@@H](C1)CO | C5H11NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | cis-2-(N-BOC-aminomethyl )-cyclopropanemethanol | C(=O)(OC(C)(C)C)NC[C@@H]1[C@@H](C1)CO | C10H19NO3
